US04766128
One millimole of 3-(1-acetyl-2,3-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea, dissolved in 5 ml of 1N hydrochloric acid, is heated for one hour to 95° C. After cooling, the mixture is made alkaline with dilute ammonia solution, combined with methylene chloride, and extracted. After drying the organic phase, the latter is evaporated, thus obtaining 220 mg of 3-(2,3-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea.

reactant | 3-(1-acetyl-2,3-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea | One millimole | C(C)(=O)N1CC2C[C@H]3N(C[C@H](C[C@@H]3C=3C(=CC=C1C32)[N+](=O)[O-])NC(N(CC)CC)=O)C | C22H31N5O4
reactant | ammonia | N | H3N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 1N, 5 ml | Cl | ClH
product | 3-(2,3-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea | 220 mg | CN1C[C@H](C[C@@H]2C=3C(=CC=C4NCC(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
